US05919793
1-(4-bromo-2,6-dimethylphenoxy)-2-methoxyethane (704 mg) and copper (I) iodide (48 mg) in dimethylformamide (DMF) (5.5 ml) and triethylamine (2.7 ml) at ambient temperature and under an atmosphere of argon. The mixture was heated at 65° C. for 14 hours, cooled to ambient temperature, diluted with 2M aqueous sodium hydroxide (20 ml) and extracted with diethyl ether (5×100 ml). The ethereal extracts were combined, washed with water (100 ml) and saturated brine (100 ml), dried (K2CO3) and evaporated. The residue was crystallised from acetonitrile to give 3-[2-(4-{2-methoxyethoxy}-3,5-dimethylphenyl)ethynyl]quinuclidin-3-ol (130 mg) as a solid, m.p. 120° C.; microanaylsis, found: C, 72.4; H, 8.2; N, 4.1%; C2OH27NO3 requires: C, 72.9; H, 8.3; N, 4.2%; NMR([CD3)2SO): 1.3(1H,m), 1.57(1H,m), 1.9(3H,m), 2.21(6H,s), 2.65(4H,m), 2.8(1H,d), 3.02(1H,d), 3.31(3H,s), 3.61(2H,m), 3.87(2H,m), 5.5(1H,br) and 7.07(2H,s); m/z 330 (M+H).

reactant | 1-(4-bromo-2,6-dimethylphenoxy)-2-methoxyethane | 704 mg | BrC1=CC(=C(OCCOC)C(=C1)C)C | C11H15BrO2
reactant | dimethylformamide | 5.5 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 2.7 ml | C(C)N(CC)CC | C6H15N
solvent | sodium hydroxide | 2M, 20 ml | [OH-].[Na+]
catalyst | copper (I) iodide | 48 mg | [Cu]I
product | 3-[2-(4-{2-methoxyethoxy}-3,5-dimethylphenyl)ethynyl]quinuclidin-3-ol | 130 mg | COCCOC1=C(C=C(C=C1C)C#CC1(CN2CCC1CC2)O)C | C20H27NO3
